US03950380
A mixture of 3-amino-5-nitro-4-phenylbenzoic acid (4.0 g), benzylbromide (4.0 ml), and ethanol (40 ml) is refluxed for 40 hours. After 16 and 24 hours additional amounts of benzylbromide (each portion 2.0 ml) are added. After cooling, the mixture is evaporated in vacuo and the obtained crude ethyl 3-benzylamino-5-nitro-4-phenylbenzoate is saponified by heating with a mixture of 2 N sodium hydroxide (25 ml) and ethanol (25 ml) for about 1 hour. The cooled mixture is acidified with acetic acid (5 ml) and diluted with water (15 ml). After cooling at about 5° C for 48 hours, the resulting precipitate is collected by filtration, washed with water and dried. After recrystallization from aqueous ethanol, 3-benzylamino-5-nitro-4-phenylbenzoic acid is obtained with a melting point of 188°-189° C.

reactant | 3-amino-5-nitro-4-phenylbenzoic acid | 4.0 g | NC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)[N+](=O)[O-] | C13H10N2O4
reactant | benzylbromide | 4.0 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | ethyl 3-benzylamino-5-nitro-4-phenylbenzoate | C(C1=CC=CC=C1)NC=1C=C(C(=O)OCC)C=C(C1C1=CC=CC=C1)[N+](=O)[O-] | C22H20N2O4
